US06326372B1
1-[3-(4-Cyano-4-phenylpiperidin-1-yl)propylaminocarbonyl]-6-phenylpiperidin-2-one Hydrochloride
Sodium hydride in mineral oil (60%, 65 mg, 1.63 mmol) was suspended in 3 mL of tetrahydrofuran. To this suspension was added 3 mL of a solution of 6-phenylpiperidin-2-one (235 mg, 1.34 mmol) and the mixture was stirred at ambient temperature for 30 minutes. The resulting solution was transferred via syringe to solution of 4-nitrophenylchloroformate (269 mg, 1.33 mmol) in tetrahydrofuran (4 mL) which had already been chilled to −78° C. The reaction mixture was stirred at −78° C. for 2 hours and then at ambient temperature for 30 minutes. The reaction mixture was then evaporated to dryness. One third of the resulting residue (150 mg, 0.441 mmol) was dissolved in 5 mL of dichloromethane. 4-cyano-4-phenylpiperidine propylamine (113 mg, 0.464 mmol) and triethylamine (139 mL, 0.997 mmol) were added to this solution, and the resulting yellow mixture was stirred at ambient temperature for 18 hours, and then evaporated to dryness. The resulting residue was purified by “flash” chromatography (97:3:0.3 dichloromethane:methanol:ammonium hydroxide). The product fractions were evaporated to give a yellow oil. The residue was purified by “flash” chromatography (1:1 ethyl acetate:hexanes). The product fractions were evaporated to dryness. The residue was then treated with HCl-saturated ethyl acetate, evaporated to dryness, and reconcentrated from diethyl ether twice to give the title compound as a solid.

reactant | Sodium hydride | [H-].[Na+]
reactant | 6-phenylpiperidin-2-one | 1.34 mmol, 235 mg | C1(=CC=CC=C1)C1CCCC(N1)=O | C11H13NO
reactant | 4-nitrophenylchloroformate | 1.33 mmol, 269 mg | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
reactant | 4-cyano-4-phenylpiperidine propylamine | 0.464 mmol, 113 mg | C(#N)C1(CCN(CC1)CCCN)C1=CC=CC=C1 | C15H21N3
reactant | triethylamine | 0.997 mmol, 139 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-[3-(4-Cyano-4-phenylpiperidin-1-yl)propylaminocarbonyl]-6-phenylpiperidin-2-one Hydrochloride | Cl.C(#N)C1(CCN(CC1)CCCNC(=O)N1C(CCCC1C1=CC=CC=C1)=O)C1=CC=CC=C1 | InChI=1S/C27H32N4O2.ClH/c28-21-27(23-11-5-2-6-12-23)15-19-30(20-16-27)18-8-17-29-26(33)31-24(13-7-14-25(31)32)22-9-3-1-4-10-22;/h1-6,9-12,24H,7-8,13-20H2,(H,29,33);1H
